US08084469B2
4-Nitrophenyl thiomorpholine-4-carboxylate
7.7 g (74.4 mmol) of thiomorpholine were initially charged in 100 ml of dichloromethane and, while cooling with an ice bath, admixed with 20.7 ml (15.1 g, 148.8 mmol) of triethylamine. 10.0 g (49.6 mmol) of 4-nitrophenyl chloroformate were added in portions. The reaction mixture was stirred at RT for one hour, and admixed with water and ethyl acetate. The organic phase was removed, washed with 1 N hydrochloric acid and saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered and concentrated under reduced pressure. Yield: 13.2 g (99% of theory)

reactant | thiomorpholine | 74.4 mmol, 7.7 g | N1CCSCC1 | C4H9NS
reactant | triethylamine | 148.8 mmol, 20.7 ml, 15.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 49.6 mmol, 10.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Nitrophenyl thiomorpholine-4-carboxylate | N1(CCSCC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O4S
